US06759554B2
A Schlenk tube was charged with CuI (19.5 mg, 0.102 mmol, 20 mol %), KCN (78 mg, 1.20 mmol), evacuated, backfilled with Ar. N,N′-Dimethylethylenediamine (21.5 μL, 0.202 mmol, 20 mol %), 5-bromo-m-xylene (136 μL, 1.00 mmol), and toluene (1.0 mL) were added under Ar. The Schlenk tube was sealed with a Teflon valve and the reaction mixture was stirred at 110° C. for 24 h. Dodecane (internal GC standard, 230 μL), ethyl acetate (2 mL), and 30% aq ammonia (1 mL) were added. A 0.1 mL sample of the supernatant solution was diluted with ethyl acetate (1 mL) and analyzed by GC to provide a 15% yield of 3,5-dimethylbenzonitrile.

reactant | KCN | 1.20 mmol, 78 mg | [C-]#N.[K+]
reactant | N,N′-Dimethylethylenediamine | 0.202 mmol, 21.5 μL | CNCCNC | C4H12N2
reactant | 5-bromo-m-xylene | 1.00 mmol, 136 μL | BrC=1C=C(C=C(C1)C)C | C8H9Br
reactant | Dodecane | 230 μL | CCCCCCCCCCCC | C12H26
reactant | ammonia | 1 mL | N | H3N
solvent | ethyl acetate | 1 mL | C(C)(=O)OCC | C4H8O2
catalyst | CuI | 0.102 mmol, 19.5 mg | [Cu]I
solvent | ethyl acetate | 2 mL | C(C)(=O)OCC | C4H8O2
solvent | toluene | 1.0 mL | C1(=CC=CC=C1)C | C7H8
product | 3,5-dimethylbenzonitrile | 15% yield | CC=1C=C(C#N)C=C(C1)C | C9H9N
